US07795453B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(2-ethoxyphenyl)amino]carbonyl}amino)-1-benzothiophene-2-carboxamide hydrochloride
A solution of 40 mg (0.11 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride in 2 ml of THF is mixed with 29.8 μl (0.21 mmol) of triethylamine and 34.9 mg (0.21 mmol) of 2-ethoxyphenyl isocyanate. After 18 h at room temperature, the product is purified by preparative HPLC. The concentrated product fraction is dissolved in a mixture of acetonitrile and 1 N hydrochloric acid (5:1), again concentrated and dried under high vacuum. 10 mg (18.7% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.11 mmol, 40 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.21 mmol, 29.8 μl | C(C)N(CC)CC | C6H15N
reactant | 2-ethoxyphenyl isocyanate | 0.21 mmol, 34.9 mg | C(C)OC1=C(C=CC=C1)N=C=O | C9H9NO2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(2-ethoxyphenyl)amino]carbonyl}amino)-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)NC(=O)NC1=C(C=CC=C1)OCC | InChI=1S/C25H28N4O3S.ClH/c1-2-32-21-6-4-3-5-19(21)28-25(31)26-18-8-7-17-13-23(33-22(17)14-18)24(30)27-20-15-29-11-9-16(20)10-12-29;/h3-8,13-14,16,20H,2,9-12,15H2,1H3,(H,27,30)(H2,26,28,31);1H/t20-;/m0./s1
